US09421205B2
(e) tert-Butyl 3-iodobenzoate (I15)
To a solution of 3-iodobenzoic acid (5.06 g, 20.4 mmol) in DCM (25 mL) was added a solution of Boc2O (4.90 g, 22.5 mmol) in dichloromethane (10 mL) and 4-DMAP (0.624 g, 5.11 mmol) in dichloromethane (5 mL). The resulting solution was stirred at room temperature under a nitrogen atmosphere for 64 hours. The resulting mixture was partitioned between water (100 mL) and dichloromethane (50 mL) and the layers separated. The organic layer was washed with water (2×100 mL) before being concentrated under reduced pressure. The resulting residue was purified using silica gel column chromatography (0-50% dichloromethane/petroleum benzene 40-60° C.) to give the title compound (I15) (65% 4.02 g) as a colourless oil; 1H NMR (400 MHz, CDCl3) δ 8.30 (dd, J=1.6, 1.6 Hz, 1H), 7.95 (ddd, J=7.8, 1.5, 1.1 Hz, 1H), 7.85 (ddd, J=7.9, 1.8, 1.1 Hz, 1H), 7.16 (ddd, J=7.8, 7.8, 0.2 Hz, 1H), 1.59 (s, 9H). LCMS Method C: rt 6.88 min.

reactant | 3-iodobenzoic acid | 20.4 mmol, 5.06 g | IC=1C=C(C(=O)O)C=CC1 | C7H5IO2
reactant | Boc2O | 22.5 mmol, 4.90 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-DMAP | 5.11 mmol, 0.624 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | tert-Butyl 3-iodobenzoate | 4.02 g, 65% | IC=1C=C(C(=O)OC(C)(C)C)C=CC1 | C11H13IO2
